US07553840B2
In a microwave vial, 4-chloro-6-{2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine (30 mg, 0.075 mmol), 4-borono-L-phenylalanine (19 mg, 0.09 mmol), 1 ml of actonitrile and 0.7 ml of water were mixed. 0.3 ml of 1N aqueous sodium carbonate was added to the mixture, followed by 5 mole percent of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and then was purified by Prep-LC to give 10.1 mg of (S)-2-Amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl}-phenyl)-propionic acid. 1H NMR (400 MHz, CD3OD) δ (ppm) 7.83 (d, J=8.4 Hz, 2H), 7.63 (d, J=7.2 Hz, 1H), 7.34 (m, 4H), 7.26 (m, 1H), 7.12 (d, J=1.2 Hz, 1H), 6.92 (q, J=6.8, 1H), 6.82 (d, J=1.2 Hz, 1H), 6.64 (s, 1H), 4.21 (t, J=5.6 Hz, 1H), 3.29 (m, 1H), 3.20 (m, 1H), 2.47 (s, 3H).

reactant | 4-chloro-6-{2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine | 0.075 mmol, 30 mg | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CSC(=C1)C)N | C17H13ClF3N3OS
reactant | 4-borono-L-phenylalanine | 0.09 mmol, 19 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | actonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1N, 0.3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-2-Amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl}-phenyl)-propionic acid | 10.1 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CSC(=C1)C)N | C26H23F3N4O3S
